US07691850B2
f) 4-Chloro-6-(methyloxy)-3-quinolinecarbonitrile
To a suspension of 4-chloro-6-(methyloxy)-3-quinolinecarboxamide (0.92 g, 3.9 mmol) in CH2Cl2 (8 mL) and Et3N (4 mL) at 0° C. was added TFAA (2.0 mL, 14 mmol) over 5 min. The reaction was warmed to rt and then stirred at this temperature for 2 h (complete by LCMS). The reaction solution was partitioned between water and CH2Cl2 and the organic phase was collected. The aqueous phase was further extracted with CH2Cl2. The organic layers were combined and washed with brine and dried over MgSO4. The solution was filtered and the solvent was removed in vacuo. The resulting material was redissolved in EtOAc and the product was precipitated via the addition of hexane. The solid material was collected by filtration and washed with cold hexanes and water to remove remaining Et3N. Isolated 580 mg (65%) of pure product as an off-white solid: LC/MS (ES) m/e 219 (M+H)+.

reactant | 4-chloro-6-(methyloxy)-3-quinolinecarboxamide | 3.9 mmol, 0.92 g | ClC1=C(C=NC2=CC=C(C=C12)OC)C(=O)N | C11H9ClN2O2
reactant | TFAA | 14 mmol, 2.0 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | Et3N | 4 mL | CCN(CC)CC | C6H15N
product | 4-Chloro-6-(methyloxy)-3-quinolinecarbonitrile | 580 mg, 65% | ClC1=C(C=NC2=CC=C(C=C12)OC)C#N | C11H7ClN2O
